US05654318
1-t-Butoxycarbonyloctahydropyrrolo[3.4-b]pyridine
In 50 ml of ethanol was dissolved 2.86 g of 6-benzyl-1-t-butoxycarbonyloctahydropyrrolo[3.4-b]pyridine, and 500 mg of 5% palladium-on-carbon was added thereto. While the reaction vessel was heated by a tungsten lamp, hydrogenation was conducted under a pressurized hydrogen gas atmosphere of 4 kg/cm2 for 1.5 hours. After completion of the reaction, the catalyst was removed by filtration, and the filtrate was concentrated to yield 1.98 g of the titled compound as an oily substance.

reactant | 6-benzyl-1-t-butoxycarbonyloctahydropyrrolo[3.4-b]pyridine | 2.86 g | C(C1=CC=CC=C1)N1CC2N(CCCC2C1)C(=O)OC(C)(C)C | C19H28N2O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 500 mg | [Pd] | Pd
product | 1-t-Butoxycarbonyloctahydropyrrolo[3.4-b]pyridine | 1.98 g | C(C)(C)(C)OC(=O)N1C2C(CCC1)CNC2 | C12H22N2O2
